US08252810B2
(1) N′-Thiazolidineylidenehvdrazinecarboxylic acid ethyl ester
A mixture of ethyl carbazate (23.4 g), 2-(methylthio)-2-thiazoline (25 g) and ethanol (250 ml) was heated to reflux for 3 days. It was then stirred at room temperature for 2 days. The precipitate was collected by filtration and washed with ethanol to obtain the title compound (9.05 g).

reactant | ethyl carbazate | 23.4 g | C(NN)(=O)OCC | C3H8N2O2
reactant | 2-(methylthio)-2-thiazoline | 25 g | CSC=1SCCN1 | C4H7NS2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N′-Thiazolidineylidenehvdrazinecarboxylic acid ethyl ester | 9.05 g | C(C)OC(=O)NN=C1SCCN1 | C6H11N3O2S
